US09278951B2
Synthesis of 1-decyl-3-methylnaphthyl-4,5-dichloroimidazolium bromide
4,5-Dichloroimidazole (1.23 g, 9 mmol) will be dissolved into acetonitrile. Potassium hydroxide (0.61 g, 9.9 mmol) will be added and the mixture will be allowed to stir for 0.5 h. 1-bromodecane (9 mmol) will be added and the solution will be allowed to reflux overnight. The solution will be filtered hot to remove a white precipitate (presumed to be KBr) and 2-bromomethylnaphthalene (1.98 g, 9 mmol) will be added and the mixture will be returned to reflux overnight. The mixture will be allowed to cool to room temperature, resulting in a yellow/white precipitate.

reactant | 4,5-Dichloroimidazole | 9 mmol, 1.23 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | Potassium hydroxide | 9.9 mmol, 0.61 g | [OH-].[K+]
reactant | 1-bromodecane | 9 mmol | BrCCCCCCCCCC | C10H21Br
reactant | KBr | [K+].[Br-]
reactant | 2-bromomethylnaphthalene | 9 mmol, 1.98 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-decyl-3-methylnaphthyl-4,5-dichloroimidazolium bromide | [Br-].C(CCCCCCCCC)C1=C(C(=CC2=CC=CC=C12)C)[N+]1=CNC(=C1Cl)Cl | InChI=1S/C24H30Cl2N2.BrH/c1-3-4-5-6-7-8-9-10-15-21-20-14-12-11-13-19(20)16-18(2)22(21)28-17-27-23(25)24(28)26;/h11-14,16-17H,3-10,15H2,1-2H3;1H
